US04175131
Ethyl N-(4-methyl-2-oxazolyl)carbamate
Ethyl chloroformate (1.05 ml, 0.011 mol) was added dropwise to a stirred solution of 2-amino-4-methyloxazole (1.0 g, 0.010 mol) and triethylamine (1.5 ml, 0.011 mol) in dry ether (50 ml) at 5°-10° C. The mixture was stirred for 2 hours at 0°-5° C. then the white solid was filtered off and washed well with water to remove triethylamine hydrochloride. Residue (0.5 g) was recrystallised from chloroform-petroleum spirit, m.p. 126° C.

reactant | Ethyl chloroformate | 0.011 mol, 1.05 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-amino-4-methyloxazole | 0.010 mol, 1.0 g | NC=1OC=C(N1)C | C4H6N2O
reactant | triethylamine | 0.011 mol, 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 50 ml | CCOCC | C4H10O
product | Ethyl N-(4-methyl-2-oxazolyl)carbamate | CC=1N=C(OC1)NC(OCC)=O | C7H10N2O3
